US05120856
A. Preparation of Zinc trimethylsilanolate
100 cm3 of a 0.5M solution of zinc bromide in dry tetrahydrofuran were cooled to 0° C. and stirred under argon. To this solution were added, dropwise, 100 cm3 of a 1M solution of sodium trimethylsilanolate in dry tetrahydrofuran. The mixture was allowed to warm up to ambient temperature and was stirred overnight. The mixture was filtered. The filtrate was used as a 0.25M solution of zinc trimethylsilanolate in tetrahydrofuran.

reactant | zinc bromide | [Br-].[Zn+2].[Br-]
reactant | sodium trimethylsilanolate | C[Si]([O-])(C)C.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Zinc trimethylsilanolate | C[Si]([O-])(C)C.[Zn+2].C[Si]([O-])(C)C | InChI=1S/2C3H9OSi.Zn/c2*1-5(2,3)4;/h2*1-3H3;/q2*-1;+2
